US07816344B2
4-(3-Aminomethyl-1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-7-yloxy)-butyramide, acetate salt (A5)
A mixture of 4-(1-hydroxy-3-nitromethyl-1,3-dihydro-benzo[c][1,2]oxaborol-7-yloxy)-butyramide (50 mg, 0.17 mmol), Raney Ni (˜20 mg), 2 M NH3 in EtOH (1 mL), and EtOH (100 mL) was shaken under an atmosphere of H2 (42 psi) for 4.5 h at rt. The mixture was filtered through a bed of Celite and the filtrate was concentrated in vacuo. 3 N HCl in MeOH (1 mL) was added immediately to the residue and the resulting mixture was concentrated in vacuo. The residue was then purified by preparative HPLC (AcOH). The title compound was isolated as a white lyophilizate: yield 5 mg (111%).

reactant | 4-(1-hydroxy-3-nitromethyl-1,3-dihydro-benzo[c][1,2]oxaborol-7-yloxy)-butyramide | 0.17 mmol, 50 mg | OB1OC(C2=C1C(=CC=C2)OCCCC(=O)N)C[N+](=O)[O-] | C12H15BN2O6
reactant | NH3 | 2 M | N | H3N
reactant | EtOH | 1 mL | CCO | C2H6O
reactant | EtOH | 100 mL | CCO | C2H6O
catalyst | Ni | ˜20 mg | [Ni] | Ni
product | 4-(3-Aminomethyl-1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-7-yloxy)-butyramide, acetate salt | C(C)(=O)O.NCC1C2=C(B(O1)O)C(=CC=C2)OCCCC(=O)N | InChI=1S/C12H17BN2O4.C2H4O2/c14-7-10-8-3-1-4-9(12(8)13(17)19-10)18-6-2-5-11(15)16;1-2(3)4/h1,3-4,10,17H,2,5-7,14H2,(H2,15,16);1H3,(H,3,4)
